US08487108B2
A 100 mL, three-neck round bottom flask was charged with Mg powder (720 mg, 30 mmol), then a solution of cyclopentylbromide (3.73 g, 25 mmol) in THF (25 mL) was added dropwise while a heat gun heated the flask. After stirring for 2 h, most of the Mg was consumed. The cyclopentylmagnesium bromide was added to a suspension of CuBr—SMe2 (307.5 mg, 1.5 mmol) in THF (80 mL) at −78° C., the cuprate was stirred for 30 min and a solution of (S)-tert-butyl 1-(tert-butyldimethylsilyloxy)-3-hydroxypropan-2-ylcarbamate (2.87 g, 10 mmol) in Et2O (30 mL) was added. After stirring for 2 h, the reaction mixture was washed with saturated NaHCO3 (2×20 mL) and brine (30 mL). The organic layer was dried with MgSO4, the solvent evaporated, and the residue purified by silica gel chromatography to obtain (S)-tert-butyl 1-(tert-butyldimethylsilyloxy)-3-cyclopentylpropan-2-ylcarbamate as an oil (2.9 g, yield 81%). 1H NMR (CDCl3, 400 MHz) δ 4.60 (brs, 1H), 3.58 (m, 3H), 1.81 (m, 3H), 1.60 (m, 3H), 1.50 (m, 3H), 1.44 (s, 9H), 1.10 (m, 2H), 0.89 (s, 9H), 0.04 (s, 6H).

reactant | cyclopentylbromide | 25 mmol, 3.73 g | C1(CCCC1)Br | C5H9Br
reactant | cyclopentylmagnesium bromide | C1(CCCC1)[Mg]Br
reactant | (S)-tert-butyl 1-(tert-butyldimethylsilyloxy)-3-hydroxypropan-2-ylcarbamate | 10 mmol, 2.87 g | [Si](C)(C)(C(C)(C)C)OC[C@H](CO)NC(OC(C)(C)C)=O | C14H31NO4Si
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | Et2O | 30 mL | CCOCC | C4H10O
product | (S)-tert-butyl 1-(tert-butyldimethylsilyloxy)-3-cyclopentylpropan-2-ylcarbamate | 2.9 g, yield 81% | [Si](C)(C)(C(C)(C)C)OC[C@H](CC1CCCC1)NC(OC(C)(C)C)=O | C19H39NO3Si
